US08084484B2
2-(1H-benzoimidazol-5-yl)-N-(4-methyl-6′-trifluoromethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-3′-ylmethyl)-propionamide
2-(3,4-diaminophenyl)-N-(4-methyl-6′-trifluoromethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-3′-ylmethyl)-propionamide (48 mg, 0.110 mmol) was combined at RT with triethyl orthoformate (2 ml). The reaction mixture was heated to reflux for 2 h and cooled to RT. The reaction mixture was combined with water and repeatedly extracted with DCM. The combined organic phases were dried over MgSO4 and filtered. The solvent was removed under a vacuum and the residue purified by means of column chromatography (DCM/MeOH=10:1).

reactant | 2-(3,4-diaminophenyl)-N-(4-methyl-6′-trifluoromethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-3′-ylmethyl)-propionamide | 0.110 mmol, 48 mg | NC=1C=C(C=CC1N)C(C(=O)NCC=1C(=NC(=CC1)C(F)(F)F)N1CCC(CC1)C)C | C22H28F3N5O
reactant | triethyl orthoformate | 2 ml | C(OCC)(OCC)OCC | C7H16O3
solvent | water | O | H2O
product | 2-(1H-benzoimidazol-5-yl)-N-(4-methyl-6′-trifluoromethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-3′-ylmethyl)-propionamide | N1C=NC2=C1C=CC(=C2)C(C(=O)NCC=2C(=NC(=CC2)C(F)(F)F)N2CCC(CC2)C)C | C23H26F3N5O
